US07160888B2
Synthesis of 7-{4-[4-(6-Cyclopropyl-pyridin-2-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
A mixture of 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.47 g, 2.0 mmol) and 1-(6-cyclopropyl-pyridin-2-yl)-piperazine (0.41 g, 2.0 mmol) in dichloroethane (12 mL) was stirred for 20 min and NaBH(OAc)3 (0.55 g, 2.6 mmol) was added. The reaction was stirred at room temperature for 2.5 h. The reaction was quenched with saturated NaHCO3 and extracted with Et2O. The organic layer was washed with brine, dried over MgSO4 and concentrated. Purification by liquid chromatography (Biotage 12M, eluted with CHCl3) gave the title compound as an oil. The oil was dissolved in Et2O and treated with anhydrous HCl gas to give a precipitate. The mixture was filtered, washed with Et2O and hexanes and dried to give a white solid (121 mg). MS: APCI: M+1: 422.3 (Exact Mass: 421.25).

reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 2.0 mmol, 0.47 g | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
reactant | 1-(6-cyclopropyl-pyridin-2-yl)-piperazine | 2.0 mmol, 0.41 g | C1(CC1)C1=CC=CC(=N1)N1CCNCC1 | C12H17N3
reactant | NaBH(OAc)3 | 2.6 mmol, 0.55 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 12 mL | ClC(C)Cl | C2H4Cl2
product | 7-{4-[4-(6-Cyclopropyl-pyridin-2-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C1(CC1)C1=CC=CC(=N1)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O | C24H31N5O2
